US07741326B2
1-[5-Fluoro-3-(3-fluoro-benzyl)-7-pyrrolidin-3-yl-benzofuran-2-yl]-ethanone was prepared by treating 3-[2-acetyl-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-7-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester with ethanolic HCl using the procedure described for step 4 of Example 2, (M+H)+ 356.

reactant | 3-[2-acetyl-5-fluoro-3-(3-fluoro-benzyl)-benzofuran-7-yl]-pyrrolidine-1-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1CC(CC1)C1=CC(=CC=2C(=C(OC21)C(C)=O)CC2=CC(=CC=C2)F)F | C26H27F2NO4
reactant | HCl | Cl | ClH
product | 1-[5-Fluoro-3-(3-fluoro-benzyl)-7-pyrrolidin-3-yl-benzofuran-2-yl]-ethanone | FC=1C=C(C2=C(C(=C(O2)C(C)=O)CC2=CC(=CC=C2)F)C1)C1CNCC1 | C21H19F2NO2
